US07388019B2
Step C: tert-Butyl 5-ethyl-7,8-dihydropyrido[3,4-b]pyrazine-6(5H)-carboxylate
Potassium tert-butoxide (11.0M in tetrahydrofuran, 0.7 mL, 0.7 mmol) was added over 3 min to a solution of phenyl 5-ethyl-7,8-dihydropyrido[3,4-b]pyrazine-6(5H)-carboxylate (91 mg, 0.32 mmol) in tetrahydrofuran (1.8 mL) cooled in a −20 to −30° C. bath. After 30 min, the bath was removed and stirring was continued for 75 min. The mixture was added to saturated aqueous sodium bicarbonate solution (10 mL) which was then extracted with two portions of ethyl acetate (35 mL and 15 mL). The organic layers were washed in succession with saturated aqueous brine (10 mL), dried over sodium sulfate, decanted, and evaporated. Purification by flash column chromatography (silica gel, 15% ethyl acetate/hexanes) gave the title compound as a colorless oil. 1H NMR (500 MHz, CD3OD) δ 8.43 (d, 1H, J=2 Hz), 8.40 (d, 1H, J=2 Hz), 5.17-5.02 (bm, 1H), 4.40-4.25 (bm, 1H), 3.37-3.20 (bm, 1H), 3.04 (ddd, 1H, J=17, 12, 6 Hz), 2.90 (dd, 1H, J=17, 4 Hz), 2.10-2.00 (m, 1H), 1.87-1.76 (m, 1H), 1.49 (s, 9H), 1.04 (bt, 3H). LC/MS 208 (M+1-56).

reactant | Potassium tert-butoxide | 0.7 mmol, 11.0M, 0.7 mL | CC(C)([O-])C.[K+]
reactant | phenyl 5-ethyl-7,8-dihydropyrido[3,4-b]pyrazine-6(5H)-carboxylate | 0.32 mmol, 91 mg | C(C)C1N(CCC=2C1=NC=CN2)C(=O)OC2=CC=CC=C2 | C16H17N3O2
solvent | tetrahydrofuran | 1.8 mL | O1CCCC1 | C4H8O
product | tert-Butyl 5-ethyl-7,8-dihydropyrido[3,4-b]pyrazine-6(5H)-carboxylate | C(C)C1N(CCC=2C1=NC=CN2)C(=O)OC(C)(C)C | C14H21N3O2
